Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Throat pain 
 
Major Surgical or Invasive Procedure:
___ Cardiac catheterization: 3 DES to RCA
___ Cardiac catheterization: Balloon angioplasty of diagonal

 
History of Present Illness:
___ w/ history of CAD s/p CABG in ___ (LIMA->LAD, 
SVG->diag->OM, SVG->PDA), RCA PCI in ___, possible prior 
inferior and apical MI, CHB with DDD pacemaker ___, poorly 
controlled DM, poorly controlled HTN, prior CVA, diastolic CHF 
and HLD, who presents with neck pain. 
.
She returns for her third visit in 4 days with complaint again 
of neck pain. She notes that this began on ___.  She notes 
a "sore throat" that woke her up from bed after a night of 
eating dungeoness crabs with no worsening of pain while speaking 
or swallowing.  She states the pain as a dull pain that is ___ 
and comes and goes. Pt has not experienced anything like this 
before.  She notes that previously with regard to the symptoms 
surrounding her coronary interventions, she had indigestion like 
symptoms and this is nothing like that.  She notes no dyspnea, 
no trouble breathing, stridor, or any other symptoms concerning 
for neck pathology.  She has had increased fatigue and shortness 
of breath with movement as well as global weakness, but no 
focality and no other neurological symptoms. Patient was worked 
up for ACS 3 days ago with slightly elevated troponins x2 to 
0.03.  She had a nuclear pharmacologic stress test with no 
anginal symptoms and moderate fixed apical perfusion defect with 
associated apical akinesis no change from ___ or ___. 
. 
Pt had negative CTA chest (___) and negative CT  in the last 4 
days, and also had negative noncontrast neck CT.
.  
In the ED, initial vitals were 97.1 72 159/116 18 100% RA.  Labs 
and imaging significant for Cr 1.3 (near baseline) and BG 231, 
Trop 0.01 initially then --> 0.31. Patient given Aspirin 325mg, 
Morphine Sulfate 4 mg IV, and Enoxaparin Sodium 70mg SC.  UA 
showed sm bld, 300 prot, and few bacteria. Chest X ray showed 
post CABG changes but no acute process.  She also received 
Aluminum-Magnesium Hydrox.-Simethicone, Donnatol (Elixir), 
Lorazepam 1mg x 2 when she was in the ED. Vitals on transfer 
were 98.5  63 14 168/82  100%RA.  In the ED, patient is alert 
and oriented x3. Patient has no visual field cuts, and has 
intact extraocular muscles. Cranial nerves II through XII are 
intact. Patient has full strength and sensation in all 4 
extremities. Patient has normal gait and does not demonstrate 
any ataxia, without pronator drift, and with unremarkable rapid 
alternating movements and finger-to-nose.
.  
On the floor, pt notes ___ neck pain. Denies angina, orthopnea, 
PND, lightheadedness, dizziness, swelling, palpitations, sycnope 
or presyncope.  Does note mildly increased SOB with exertion.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
CABG in ___: CAD s/p CABG ___ (LIMA->LAD, SVG->diag->OM, 
SVG->PDA) 
Cath: ___  
-- LIMA to LAD patent.
-- SVG to the diagonal and OM occluded.
-- SVG to the PDA was occluded.  
-- Old 80% LAD lesion and 100% D1 occlusion. 
-- circumflex moderately diseased, 
-- RCA had serial 80% lesions --> 3 stents placed in the RCA.  
PCI: RCA PCI in ___
.
3. OTHER PAST MEDICAL HISTORY: 
-prior CVA without residual deficit  
-glaucoma  
-arthritis  
-history of heart block and dual chamber pacemaker placement in 
___  
- diastolic CHF
- PVD
- Vertigo
- HRN
- Hypothyroidism
- Depression/Anxiety

 
Social History:
___
Family History:
Her son, ___, had a history of diabetes, hypertension, 
hyperlipidemia, status post anterior ST elevation MI with a 
drug-eluting stent to the proximal LAD in ___. He had an 
ICD implanted in ___ for a nonsustained VT in the 
setting of low EF (20%).  He presented on ___ after 
syncope and ICD shocks for rapid monomorphic VT with cycle 
length 210, right bundle-branch block configuration, right 
superior axis.  There may have been 12 occurrences.  During VT 
ablation in the EP lab, he had a non-clinical VT for which 
shocked.  He had a PEA arrest from which he recovered but never 
regained normal function.  He died ___ following a 
prolonged neurological vegetative state. 
 
Physical Exam:
On Admission:
VS: Vitals: T Afebrile BP 160s/80s HR ___ RR 12 98% RA  
Gen: Pleasant, calm, NAD  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP low but prominent V waves
CV: RRR. normal S1, wide split and loud P2. I/VI HSM at ___ c/w
TR  
LUNGS: CTAB. No wheezes, rales, or rhonchi.  
ABD: Obese, NABS. Soft, NT, ND. No HSM. 
EXT: WWP, NO CCE. Full distal pulses bilaterally. 
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Non-focal 

On Discharge:
O: T 98 BP 147/75 (135-147/70s) P ___ RR 18 100% RA
Gen: Pleasant, mildly anxious
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP low but very prominent V waves up to 
ear
CV: RRR. normal S1, paraxodically split and loud P2 heard best 
over RUSB and LUSB. I/VI HSM at ___   
LUNGS: CTAB. No wheezes, rales, or rhonchi.  
ABD: Obese, NABS. Soft, NT, ND. No HSM. 
EXT: WWP, NO CCE. Full distal pulses bilaterally. 
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Non-focal 
 
Pertinent Results:
Admission:
___ 10:45AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-300 
GLUCOSE-70 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:45AM URINE  RBC-<1 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 10:25AM   LACTATE-1.5
___ 10:20AM   GLUCOSE-231* UREA N-39* CREAT-1.3* SODIUM-137 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-24 ANION GAP-16
___ 10:20AM   ALT(SGPT)-45* AST(SGOT)-28 CK(CPK)-93
___ 10:20AM   WBC-8.5 RBC-5.06 HGB-15.0 HCT-44.4 MCV-88 
MCH-29.7 MCHC-33.9 RDW-13.8
___ 10:20AM   NEUTS-74.9* ___ MONOS-3.8 EOS-1.0 
BASOS-0.7
___ 10:20AM   PLT COUNT-222
___ 10:20AM   ___ PTT-30.6 ___
___ 05:20AM   GLUCOSE-192* UREA N-51* CREAT-1.7* SODIUM-135 
POTASSIUM-4.5 CHLORIDE-98 TOTAL CO2-28 ANION GAP-14
___ 05:20AM   WBC-9.0 RBC-4.95 HGB-14.5 HCT-43.2 MCV-87 
MCH-29.3 MCHC-33.6 RDW-13.9
___ 05:20AM   NEUTS-72.5* ___ MONOS-3.4 EOS-1.0 
BASOS-0.5
___ 05:20AM   PLT COUNT-218

Cardiac enzymes:
___ 10:20AM BLOOD ALT-45* AST-28 CK(CPK)-93
___ 11:44PM BLOOD CK(CPK)-585*
___ 06:55AM BLOOD CK(CPK)-583*
___ 12:40PM BLOOD CK(CPK)-446*
___ 07:30AM BLOOD CK(CPK)-194
___ 07:20AM BLOOD CK(CPK)-114
___ 05:40PM BLOOD CK(CPK)-120
___ 07:25AM BLOOD CK(CPK)-120
___ 09:35PM BLOOD CK(CPK)-113
___ 08:00AM BLOOD CK(CPK)-104
___ 06:06PM BLOOD CK(CPK)-92
___ 05:05PM BLOOD CK(CPK)-89
___ 07:28AM BLOOD CK(CPK)-83
___ 10:20AM BLOOD CK-MB-4
___ 10:20AM BLOOD cTropnT-0.01
___ 04:20PM BLOOD cTropnT-0.31*
___ 11:44PM BLOOD CK-MB-53* MB Indx-9.1* cTropnT-0.73*
___ 06:55AM BLOOD CK-MB-47* MB Indx-8.1* cTropnT-1.83*
___ 12:40PM BLOOD CK-MB-30* MB Indx-6.7* cTropnT-1.30*
___ 07:30AM BLOOD CK-MB-9 cTropnT-0.77*
___ 08:18PM BLOOD CK-MB-6 cTropnT-0.70*
___ 07:20AM BLOOD CK-MB-7 cTropnT-0.78*
___ 05:40PM BLOOD CK-MB-8 cTropnT-1.13*
___ 10:45PM BLOOD CK-MB-7
___ 07:25AM BLOOD CK-MB-6 cTropnT-1.18*
___ 09:35PM BLOOD CK-MB-5 cTropnT-1.00*
___ 08:00AM BLOOD CK-MB-4 cTropnT-1.03*
___ 07:22AM BLOOD cTropnT-1.18*
___ 05:05PM BLOOD CK-MB-3 cTropnT-0.93*
___ 07:28AM BLOOD CK-MB-2 cTropnT-0.94*

Discharge Labs:
___ 07:28AM BLOOD Glucose-137* UreaN-27* Creat-1.2* Na-139 
K-4.6 Cl-106 HCO3-26 AnGap-12
___ 07:28AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.1

Studies:
___:
CT neck w/o contrast:
IMPRESSION: No acute abnormality identified within the limits of 
this 
non-contrast examination. Prominent lingual tonsils and palatine 
tonsils and mild fullness in the left piriform sinus- correlate 
with clinical examination. Deg. changes in c spine.  
.
___: 
CXray:
No acute cardiopulmonary process.
.
___:
TTE:
Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. LV systolic function appears 
depressed (ejection fraction 30 percent) secondary to severe 
hypokinesis/akinesis of the septum, anterior free wall, and 
apex. The lateral wall may also be hypokinetic but was 
suboptimally visualized. Right ventricular chamber size and free 
wall motion are normal. The aortic valve is not well seen. There 
is no aortic valve stenosis. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

Compared with the findings of the prior study (images reviewed) 
of ___, the extent of contractile dyfunction in the 
interventricular septum and anterior free wall is increased. 
However, hypokinesis in these walls was present in the prior 
study, as was severe hypokinesis of the apex. 
.
___:
LHC:
COMMENTS:      
1.  Selective coronary angiography of this right-dominant system 
demonstrated 3 vessel native coronary artery disease.  The ___ 
had no 
angiographically apparent flow-limiting disease.  The LAD had an 
80% 
mid-vessel lesion followd by a total occlusion at D2.  The LCx 
had a 70% 
hazy, proximal OM2 stenosis.  The RCA had an 80% ostial stenosis 
and 
diffuse 90% in-stent restenosis. 
2.  Arterial conduit angiography demonstrated a patent LIMA0LAD. 

3.  Venous conduit angiography was not performed as both SVGs 
are known 
to be occluded. 
4.  Limited resting hemodynamics revealed moderate systemic 
systolic 
arterial hypertension with an SBP of 157mmHg. 
5. Successful PTCA and stenting of ostial, proximal and mid RCA 
with 
three overlapping drug eluting stents (2.5x23 Promus, 2.5x18mm 
Promus 
and 3.0x18mm promus distal to proximal). The 2.5mm stents were 
postdilated with 2.5mm NC balloon and 3.0 postdilated with 3.0mm 
NC 
Balloon. 
6. Successful hemostasis of left radial arteritomy with TR band. 

  
FINAL DIAGNOSIS:     
1. Three vessel native coronary artery disease with severe 
native LCx 
and RCA disease. 
2. Patent LIMA-LAD. 
3. SVG x 2 known to be occluded. 
4. Moderate systemic systolic arterial hypertension. 
5. Successful PCI of RCA with DESx3 
6. Successful LRA TR band. 
.
___:
REPEAT LHC:
1. Limited hemodynamic study showed aortic pressure of 127/73/90 
mm Hg. 
2. Selective coronary angiography was performed via right radial 

arterial access using a ___ Fr sheath. A ___ Fr JR 4 catheter was 
used to 
obtain a right coronary angiogram. Diagnostic left ___ 
angiography 
and subsequent intervention of the left coronary arterial system 
was 
carried out using an XB 3.0 ___ Fr guide catheter (an XB 3.5 
catheter 
proved to be oversized). 
3. The right coronary artery showed patent stents with TIMI 3 
flow. 
4. The left main was widely patent with no significant stenosis 
(except 
for a calcified distal plaque). The LAD had a diffuse calcified 
80% 
stenosis in the mid-segment followed by complete occlusion at 
the level 
of the second diagonal. The second obtuse marginal had a 70% 
stenosis 
involving its origin. 
5. Successful balloon angioplasty of a subtotally occluded 
second 
diagonal with 30% residual stenosis. 
6. Fractional flow reserve study of the second obtuse marginal 
70% 
stenosis yielded a value of 0.84. 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Successful balloon angioplasty of a 99% sub-totally occluded 
second 
diagonal branch with 30% residual stenosis and TIMI 3 distal 
flow. 
3. Hemodynamically non-significant diffuse 70% stenosis at the 
origin of 
OM2 (FFR 0.84). 

 
Brief Hospital Course:
___ year old woman with a history of CAD (LIMA->LAD, 
SVG->diag->OM, SVG->PDA), RCA PCI in ___, possible prior 
inferior and apical MI, poorly controlled DM, poorly controlled 
HTN, prior CVA, diastolic CHF and HLD, CHB with DDD, who 
presents with throat pain and elevation of troponin now s/p 
stent x3 to RCA for ostial lesion and 90% ISRS, with return to 
cath lab for D2 POBA due to recurrence of throat pain and rising 
trops.  Had improvement in symptoms but still elevated troponin 
most likely ___ to demand myonecrosis with poor clearance ___ to 
___. 

# NSTEMI and Demand Myonecrosis:  Pt presented to ED with severe 
throat pain for third time in a matter of days. First two times 
trops were negative and stress tolerance test and MIBI showed no 
anginal symptoms and a known fixed apical wall defect unchanged 
to prior. ECGs uninterpretable due to vpaced rhythm from 
patient's pacemaker for complete heart block. On this admission, 
pt worked up with CT neck which was negative.  However, troponin 
found to be elevated.  It is likely that her throat pain is her 
coronary equivalent given patient's diabetes.  Echo demonstrated 
worsening anterior and septal wall motion abnormalities with 
suboptimal view of lateral wall.  Trops peaked at 1.8 and the pt 
was classified as having an NSTEMI.  An invasive approach was 
indicated given elevated trops, prior CABG, and high TRS of 6. 
Cath revealed an RCA ostial stenosis ISRS of RCA, and these were 
treated with 3 DES.  While in cath lab, pt became hypertensive 
and recurrence of throat pain and case was discontinued but note 
was made of an occluded D2 and 70% OM lesion.  Back on the 
floor, pt had worsening of throat pain and spiked troponins 
again.  In conjunction with the previous echo demonstrating 
worsening wall motion abnormalities over left anterior wall, 
septum, and possibly lateral wall (suboptimally visualized) this 
suggested another potential culprit lesion outside of the RCA. 
Pt went back to cath lab on following day where OM2 showed good 
FFR of 84% so was not intervened on, but occluded D2 was POBAed 
with improvement of pain.  However, the following night patient 
again developed neck pain in the setting of an elevated blood 
pressure to 190's/110's. She was started on nitro gtt which 
resulted in complete pain relief. She was gradually weaned off 
of the nitro gtt and remained pain-free.  She developed a more 
modest trop spike most likely due to demand ischemia in setting 
of hypertension.  The patient seems to be very sensitive to 
hypertension and easily develops demand myonecrosis most likely 
from her ischemic cardiomyopathy causing elevated O2 demand with 
decreased supply in setting of CAD and both systolic and 
diastolic dysfunction.  The patient's troponins were monitored 
and were on the decline at time of discharge.  It will be 
important to control patient's hypertension as hypertensive 
episodes cause her to have her coronary anginal equivalent 
throat pain.  For stent, pt to continue aspirin and plavix.  For 
CAD/HTN/Angina, pt on Coreg 25, Imdur 60, Atorvastatin 80, and 
lisinopril 20 mg.  Of note, Imdur causes the patient headache 
within first hour of taking.  Imdur just started, and pt may 
become tolerant of side effect with time, but should continue to 
monitor in case side effects become worse or intolerable.  She 
was advised to take the medication an hour before getting up to 
go to work.
.
# Acute on chronic systolic and diastolic dysfunction:  No signs 
of acute symptomatic heart failure.  LVEF is now worse and 
estimated to be 30%.  Pt to continue on Coreg 25 mg and 
Lisinopril 20 mg with increase of lisinopril as tolerated.
.  
# RHYTHM:  A paced V sensed throughout at rate in ___.
.  
# HTN: Continue on Coreg, Imdur, Lisinopril, with uptitration of 
lisinopril as renal function tolerates.  ___ from 
CIN, this was not further increased in the hospital.  Pt sent 
home with script for blood pressure kit for outpatient follow 
up.
.  
#  DMII: ISS while here.  Discharged on home meds as creatinine 
came back down to 1.2.
.  
#  Dyslipidemia: Switched crestor to atorvastatin 80 mg. Spoke 
to pharmacy, unfortunately copay is $99 for either medication.
.  
# ___: Pt developed CIN both times she was administered 
contrast.  This improved with time and hydration.
.  
# Incidentals:
- Elevated ALT: Workup as outpatient
- 4-mm pulmonary nodule along the right major fissure. In this 
location, 
this could represent a lymph node. In a low-risk patient, no 
further specific 
followup is needed. In a high-risk patient, followup CT at 12 
months may be 
performed. 

.
CODE: Full code
.  
EMERGENCY CONTACT:  
___
___
___
.  
Transitional:
1) Control blood pressures.
2) Mildly elevated ALT.
3) Pulmonary nodule on CTA
 
Medications on Admission:
Atenolol 50 daily
Metformin 500 Daily
Felodipine 5 daily
Crestor 10 daily
ASA 325 daily
Glyburide 5 Daily
Lisinopril 5 daily
Xanax 2.5 daily
 
Discharge Medications:
1. metformin 500 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Coreg 25 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
6. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain: 
Take 1 tab every 5 minutes up to 3 in 15 minutes.
Disp:*30 Tablet, Sublingual(s)* Refills:*0*
7. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily): 
Please take this an hour earlier in the morning to minimize side 
effects when you are awake.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*0*
9. glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Blood Pressure Kit     Kit Sig: One (1)  Miscellaneous twice 
a day: Please provide patient with Omron ARM blood pressure kit. 
 Measure twice a day. .
Disp:*1 Kit* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI (heart attack)
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.  You were 
admitted for throat pain and were found to be having a heart 
attack.  You were treated with placement of 3 drug eluting 
stents into a heart artery called the right coronary artery.  
However, you continued to have pain and your cardiac markers in 
your blood demonstrated that you were having another small heart 
attack.  You were treated with dilation of one of your other 
heart arteries which improved your symptoms.  

Your blood pressure was also high on admission and your 
medications were changed to better control this.

The following changes were made to your medications:
START Plavix (clopidogrel) to prevent your stent from clotting
START Carvedilol (coreg) for better blood pressure control
STOP Atenolol
STOP Amlodipine
START Isosorbide Mononitrate (Imdur) for control of your pain 
and blood pressure control
INCREASE Lisinopril for better blood pressure control
START Nitroglycerin tabs to be used as needed for chest or 
throat pain
STOP Crestor
START Atorvastatin for heart attack
START Home Blood pressure monitoring

You must take your aspirin and plavix everyday without fail.  
Please do not ever stop taking it unless told by your 
cardiologist.
 
Followup Instructions:
___